US04910319
1-Benzyl-3-benzylamino-3-methylpyrrolidine
51 g of 93% pure 1-benzyl-3-benzylamino-3-methylpyrrolidine-2,5-dione (0.154 mol) are reduced in 330 ml of dimethoxyethane using 12.4 g (0.33 mol) of lithium aluminum hydride. The work up is carried out as in A of Example 5.

reactant | 1-benzyl-3-benzylamino-3-methylpyrrolidine-2,5-dione | 0.154 mol, 51 g | C(C1=CC=CC=C1)N1C(C(CC1=O)(C)NCC1=CC=CC=C1)=O | C19H20N2O2
reactant | dimethoxyethane | 0.33 mol, 330 ml, 12.4 g | C(OC)COC | C4H10O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-Benzyl-3-benzylamino-3-methylpyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)(C)NCC1=CC=CC=C1 | C19H24N2
